US06441005B1
5-(S)-Azidomethyl-3-[4′-ethylthio-3′-fluorophenyl]oxazolidine-2-one
This compound was prepared analogously to the synthesis of 5-(S)-azidomethyl-3-[4′-methylthio-3′-fluorophenyl]oxazolidine-2-one from iodoethane (0.117 ml, 1.47 mmol) and 5-(S)-azidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one (0.500 g, 0.979 mmol). Yield 0.267 g (92%). MS (m/z): [M+H]+=297.

reactant | 5-(S)-azidomethyl-3-[4′-methylthio-3′-fluorophenyl]oxazolidine-2-one | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC)F | C11H11FN4O2S
reactant | iodoethane | 1.47 mmol, 0.117 ml | ICC | C2H5I
reactant | 5-(S)-azidomethyl-3-[4′-triphenylmethylthio-3′-fluorophenyl]oxazolidine-2-one | 0.979 mmol, 0.500 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F | C29H23FN4O2S
product | 5-(S)-Azidomethyl-3-[4′-ethylthio-3′-fluorophenyl]oxazolidine-2-one | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SCC)F | C12H13FN4O2S
